US07335658B2
SYNTHESIS of 6-[4-(ISOXAZOLE-5-CARBONYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE
To a stirred solution of 6-piperazin-1-yl-pyridazine-3-carboxylic acid (3-methylbutyl)amide (277 mg, 1 mmol) in dichloromethane (15 mL) was added isoxazole-5-carbonyl chloride (1.0 mmol) as a dichloromethane solution in the presence of triethylamine (0.4 mL) at ambient temperature. After 1 hour the mixture was evaporated and the residue was subjected to column chromatography. Final product was isolated as a solid (0.107 g, yield 29%). 1H NMR (300 MHz, CDCl3) δ 8.34, 8.05, 7.83, 7.00, 6.86, 3.90-3.84, 3.51-3.45, 1.75-1.62, 1.53-1.46, 0.92. MS (ES+) m/z 373.3 (M+1).

reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (3-methylbutyl)amide | 1 mmol, 277 mg | CC(CCNC(=O)C=1N=NC(=CC1)N1CCNCC1)C | C14H23N5O
reactant | isoxazole-5-carbonyl chloride | 1.0 mmol | O1N=CC=C1C(=O)Cl | C4H2ClNO2
reactant | triethylamine | 0.4 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 6-[4-(ISOXAZOLE-5-CARBONYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE | CC(CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(=O)C1=CC=NO1)C | C18H24N6O3
